US06294558B1
3-Fluoro-4-(methylthio)benzaldehyde (Step 1)
A mixture of 3,4-difluorobenzaldehyde (4.26 g, 30 mmol) and sodium thiomethoxide (2.1 g, 30 mmol) in DMF (40 mL) was heated at 90° C. for 1 hour. After cooling, 2N aqueous HCl was added to the mixture. The whole was extracted with Et2O (70 mL×3), the combined organic layer washed with water, brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate/hexane (1/10) to provide the subtitle compound (3.1 g, 61% yield) as a colorless oil.

reactant | 3,4-difluorobenzaldehyde | 30 mmol, 4.26 g | FC=1C=C(C=O)C=CC1F | C7H4F2O
reactant | sodium thiomethoxide | 30 mmol, 2.1 g | C[S-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-Fluoro-4-(methylthio)benzaldehyde | 3.1 g, 61% yield | FC=1C=C(C=O)C=CC1SC | C8H7FOS
